US08603990B2
6-(Methacryloylamino)hexanoylhydrazine-Doxorubicin (MA-AH-NHN=DOX)
6-(Methacryloylamino)hexanoylhydrazine (40 mg, 0.188 mmol) was dissolved in 6 ml of methanol at room temperature. The solution was poured into a reaction vessel in which doxorubicin.HCl (115 mg, 0.198 mmol) was placed and the suspension was stirred vigorously. 310 μl of acetic acid was added to the suspension and the reaction mixture stirred at room temperature for 24 hours. The reaction process was monitored by TLC-Silicagel 60 F254 plates (methanol:chloroform:acetic acid 2:8:1, Rf(DOX)=0.75, Rf(MA-AH-NHN=DOX)=0.9). 100 mg of copolymer 1 was then added to the homogenous reaction mixture (to bind the residual free DOX) and the reaction mixture was stirred at room temperature for another 4 hours. The product was purified from polymeric and low-molecular impurities by means of gel chromatography in a column (30 cm×3 cm) filled with Sephadex LH-20 in methanol. The filtrate was concentrated to 2 ml and the product precipitated into 30 ml of diethyl ether. The product was sucked off, washed with a small amount of diethyl ether, and vacuum dried to constant weight. The yield was 110 mg of product (79%) with the melting point of 172 to 175° C. TLC (methanol:chloroform:acetic acid 2:8:1): one stain at Rf=0.9. MALDI-TOF MS: 762 (M+Na).

reactant | 6-(Methacryloylamino)hexanoylhydrazine | 0.188 mmol, 40 mg | C(C(=C)C)(=O)NCCCCCC(=O)NN | C10H19N3O2
reactant | doxorubicin | C[C@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2C[C@@](CC=3C2=C(C4=C(C3O)C(=O)C5=CC=CC(=C5C4=O)OC)O)(C(=O)CO)O)N)O | C27H29NO11
reactant | HCl | 0.198 mmol, 115 mg | Cl | ClH
reactant | acetic acid | 310 μl | C(C)(=O)O | C2H4O2
solvent | methanol | 6 ml | CO | CH4O
solvent | methanol chloroform acetic acid | CO.C(Cl)(Cl)Cl.C(C)(=O)O
product | 6-(Methacryloylamino)hexanoylhydrazine Doxorubicin | C(C(=C)C)(=O)NCCCCCC(=O)NN.C[C@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2C[C@@](CC=3C2=C(C4=C(C3O)C(=O)C5=CC=CC(=C5C4=O)OC)O)(C(=O)CO)O)N)O | InChI=1S/C27H29NO11.C10H19N3O2/c1-10-22(31)13(28)6-17(38-10)39-15-8-27(36,16(30)9-29)7-12-19(15)26(35)21-20(24(12)33)23(32)11-4-3-5-14(37-2)18(11)25(21)34;1-8(2)10(15)12-7-5-3-4-6-9(14)13-11/h3-5,10,13,15,17,22,29,31,33,35-36H,6-9,28H2,1-2H3;1,3-7,11H2,2H3,(H,12,15)(H,13,14)/t10-,13-,15-,17-,22+,27-;/m0./s1
